US06288096B1
7 g (26 mmole) 4-[(methoxycarbonyl)amino]phenethyl methanesulfonate, 6.2 g (51 mmole) 4-hydroxybenzaldehyde and 7.05 g potassium carbonate in acetonitrile was refluxed for 3 h. The solvent was evaporated in vacuo, 1 M sodium hydroxide was added and the product was extracted with dichloromethane, washed with brine, dried and the solvent was evaporated. The reaction was not completed and therfore restarted with 3.1 g 4-hydroxybenzaldehyde and 3.5 g potassium carbonate in acetonitrile and refluxed for 4 h. The solvent was evaporated and the residue was stirrred in dichloromethane over night. The precipitate was filtered off and the solvent was evaporated to give 5.9 g (yield 75.8%) of methyl N-{4-[2-(4-formylphenoxy)ethyl]phenyl}carbamate wich was used without further purification.

reactant | 4-[(methoxycarbonyl)amino]phenethyl methanesulfonate | 26 mmole, 7 g | CS(=O)(=O)OCCC1=CC=C(C=C1)NC(=O)OC | C11H15NO5S
reactant | 4-hydroxybenzaldehyde | 51 mmole, 6.2 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | potassium carbonate | 7.05 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
product | methyl N-{4-[2-(4-formylphenoxy)ethyl]phenyl}carbamate | 5.9 g, yield 75.8% | C(=O)C1=CC=C(OCCC2=CC=C(C=C2)NC(OC)=O)C=C1 | C17H17NO4
